US07723065B2
4. Preparation of 2-nitro-3-phenylpropane
Z-2-nitro-3-phenyl-2-propene (151 mg 1 mmol) was reacted with yeast (5 g) and water (5 ml) according to Method I. The product was isolated as a racemic mixture of products in 41% yield. Reaction according to method II also resulted in a racemic mixture of products in 38% yield.

reactant | Z-2-nitro-3-phenyl-2-propene | 1 mmol, 151 mg | [N+](=O)([O-])\C(\C)=C/C1=CC=CC=C1 | C9H9NO2
solvent | water | 5 ml | O | H2O
product | 2-nitro-3-phenylpropane | 41% yield | [N+](=O)([O-])C(C)CC1=CC=CC=C1 | C9H11NO2
